US05594021
n-BuLi (2.39M, 177 μl) was slowly added to a solution of (2-trimethylsilylethoxymethyl)-N-(3,4-dimethyl-5-isoxazolyl)thiophene-3-sulfonamide (156 mg, 0.38 mmol) in THF at -78° C. under nitrogen. The reaction was stirred at -78° C. for 45 min., then benzaldehyde (45 μl, 0.42 mmol) was added in one lot at -78° C. and the solution was allowed to come to room temperature. Stirring was continued for 1 hr. Purification was achieved by column chromatography using 10% ethyl acetate/hexanes to give 179 mg 2-[2-(trimethylsilyl)ethoxymethyl]-N-(3,4-dimethyl-5-isoxazolyl)-2-(α-hydroxybenzyl)thiophene-3-sulfonamide as a yellow viscous oil (90% yield).

reactant | n-BuLi | 2.39M, 177 μl | [Li]CCCC
reactant | (2-trimethylsilylethoxymethyl)-N-(3,4-dimethyl-5-isoxazolyl)thiophene-3-sulfonamide | 0.38 mmol, 156 mg | C[Si](CCOCC=1SC=CC1S(=O)(=O)NC1=C(C(=NO1)C)C)(C)C | C15H24N2O4S2Si
reactant | benzaldehyde | 0.42 mmol, 45 μl | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | C1CCOC1 | C4H8O
product | 2-[2-(trimethylsilyl)ethoxymethyl]-N-(3,4-dimethyl-5-isoxazolyl)-2-(α-hydroxybenzyl)thiophene-3-sulfonamide | 179 mg, 90% yield | C[Si](CCOCC1(SC=CC1S(=O)(=O)NC1=C(C(=NO1)C)C)C(C1=CC=CC=C1)O)(C)C | C22H32N2O5S2Si
